US06448242B1
Preparation of N,N′-bis[1-[4-(3,4,5-trimethoxyphenyl)benzoyl)-4-piperidinyl]-N,N′-dimethylethylenediamine dihydrochloride
Concentrated hydrochloric acid (0.030 ml; 0.36 mmol) was added to a solution of N,N′-bis[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]-N,N′-dimethylethylenediamine (60 mg; 0.076 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. The concentrated residue was suspended in diethyl ether and collected by filtration to obtain the title compound as a colorless crystalline powder.

reactant | hydrochloric acid | 0.36 mmol, 0.030 ml | Cl | ClH
reactant | N,N′-bis[1-[4-(3,4,5-trimethoxyphenyl)benzoyl]-4-piperidinyl]-N,N′-dimethylethylenediamine | 0.076 mmol, 60 mg | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCC(CC2)N(CCN(C)C2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C)C=C1 | C46H58N4O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N,N′-bis[1-[4-(3,4,5-trimethoxyphenyl)benzoyl)-4-piperidinyl]-N,N′-dimethylethylenediamine dihydrochloride | Cl.Cl.COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCC(CC2)N(CCN(C)C2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C)C=C1 | InChI=1S/C46H58N4O8.2ClH/c1-47(37-17-21-49(22-18-37)45(51)33-13-9-31(10-14-33)35-27-39(53-3)43(57-7)40(28-35)54-4)25-26-48(2)38-19-23-50(24-20-38)46(52)34-15-11-32(12-16-34)36-29-41(55-5)44(58-8)42(30-36)56-6;;/h9-16,27-30,37-38H,17-26H2,1-8H3;2*1H
